US04824951
1-[(3-Nitro-2-pyridinyl)amino]-2-propanol.
A mixture of 2-chloro-3-nitropyridine (10.0 g, 0.063 mole), DL-1-amino-2-propanol (7.1 g, 0.095 mole), and triethylamine (8.75 ml, 0.063 mole) in absolute ethanol was heated at reflux for 11/2 hours. The reaction mixture was evaporated to dryness and the residue was partitioned between water and methylene chloride. The water layer was separated and extracted with methylene chloride (2×). The combined methylene chloride layers were extracted with water and dried over sodium sulfate. The filtrate was evaporated to a yellow oil. The oil was purified on a silica gel column (200 g) eluting first with methylene chloride, followed by 5%, 10%, 25% (500 ml each), and finally 50% ethyl acetate/methylene chloride. The appropriate fractions (TLC using ethyl acetate) were combined and evaporated to an oil. A sample of the oil was dried at 50°-60° C., then at 70° C. for 6 hours to give 11.9 g (96%) of a yellow oil.

reactant | 2-chloro-3-nitropyridine | 0.063 mole, 10.0 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | DL-1-amino-2-propanol | 0.095 mole, 7.1 g | CC(CN)O | C3H9NO
reactant | triethylamine | 0.063 mole, 8.75 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | C(C)O | C2H6O
product | 1-[(3-Nitro-2-pyridinyl)amino]-2-propanol | 11.9 g, 96% | [N+](=O)([O-])C=1C(=NC=CC1)NCC(C)O | C8H11N3O3
